US06369092B1
Thionyl chloride (5 ml) is added to 1-(2-chlorobenzyl)-6-chloromethyl-2-methylbenzimidazole (3.56 g), and the solution is stirred for 20 minutes at room temperature and then for 20 minutes at 80° C. After excess thionyl chloride is removed through evaporation under reduced pressure, the residue is dissolved in chloroform (10 ml), and crystallization is performed by adding hexane. The crystals are separated through filtration, washed in hexane, and dried. Thus, 1-(2-chlorobenzyl)-6-chloromethyl-2-methylbenzimidazole hydrochloride (4.07 g) is obtained. 1H-NMR (CDCl3, δ): 3.01 (3H, s), 4.68 (2H, s), 5.61 (2H. s), 6.71 (1H, d, J=7.5 Hz), 7.24-7.29 (1H, m), 7.38 (1H, t, J=7.7 Hz), 7.44 (1H, s), 7.52 (2H, d, J=8.2 Hz), 7.92 (1H, d J=8.4 Hz).

reactant | Thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 1-(2-chlorobenzyl)-6-chloromethyl-2-methylbenzimidazole | 3.56 g | ClC1=C(CN2C(=NC3=C2C=C(C=C3)CCl)C)C=CC=C1 | C16H14Cl2N2
product | 1-(2-chlorobenzyl)-6-chloromethyl-2-methylbenzimidazole hydrochloride | 4.07 g | Cl.ClC1=C(CN2C(=NC3=C2C=C(C=C3)CCl)C)C=CC=C1 | InChI=1S/C16H14Cl2N2.ClH/c1-11-19-15-7-6-12(9-17)8-16(15)20(11)10-13-4-2-3-5-14(13)18;/h2-8H,9-10H2,1H3;1H
